* E:\GitHub\UdeS_S7_APP1\Simulations\Reverse Protection - Switch - Inrush Current Protection.asc
V1 N001 0 24
M1 N001 0 N002 N002 AO6407
R§LOAD LOAD 0 10
S1 N006 N004 N005 0 MYSWITCH
V2 N005 0 PULSE(0 5 2m 1u 1u 2 4 2)
R2 N006 0 10K
D1 NC_01 NC_02 BZX84B10VL
M2 LOAD N004 N003 N003 IRFP9240
R3 N003 N004 1Meg
R§CURRENT_MOS N002 N003 0.001
C1 LOAD 0 500µ
C2 N004 0 10µF
.model D D
.lib C:\Users\Pascal5333\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Pascal5333\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 100m
.model MYSWITCH SW (Ron=1 Roff=100MEG Vt=1 Vh=0.5)
.backanno
.end
